US06696464B2
D) 5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine
A suspension of 2-Chloro-5-(4-phenyl-oxazol-5-yl)-pyridine (2.55 g, 9.9 mmol) in hydrazine (8 mL) was heated at 70° C. until a solution formed (approximately 20 minutes). The hydrazine product was removed from the heat and concentrated in vacuo affording the above named compound as a dark solid (2.5 g, 100%).

reactant | 2-Chloro-5-(4-phenyl-oxazol-5-yl)-pyridine | 9.9 mmol, 2.55 g | ClC1=NC=C(C=C1)C1=C(N=CO1)C1=CC=CC=C1 | C14H9ClN2O
reactant | hydrazine | 8 mL | NN | H4N2
product | 5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine | C1(=CC=CC=C1)C=1N=COC1C=1C=CC(=NC1)NN | C14H12N4O
